US05290780
2-Butyl-6-(1-methoxypropyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
To a solution of 0.556 ml of methyl iodide in 5.0 ml of THF is added 0.071 g of 60% sodium hydride followed by 0.657 g of 2-butyl-6-(1-hydroxypropyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]4(3H)-quinazolinone. The reaction is stirred for 16 hours at room temperature, then quenched with saturated NH4Cl solution and extracted with ether. The organics are dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica gel, eluting with 1:5 ethyl acetate/hexanes to provide 0.59 g of the desired product as a white solid. FAB MASS SPEC 751(M+H).

reactant | methyl iodide | 0.556 ml | CI | CH3I
reactant | sodium hydride | 0.071 g | [H-].[Na+]
reactant | 2-butyl-6-(1-hydroxypropyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]4(3H)-quinazolinone | 0.657 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(CC)O | C48H44N6O2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | 2-Butyl-6-(1-methoxypropyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.59 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(CC)OC | C49H46N6O2
